US05981572
Cyclobutanecarboxylic acid [3-(2,3-dihydro-benzofuran-4-yl)-propyl]-amide
3-(2,3-Dihydro-benzofuran-4-yl)-propylamine hydrochloride (100 mg) was suspended in dichloromethane (3 ml) containing triethylamine (0.33 ml) and cooled in ice. A solution of cyclobutanecarbonyl chloride (0.054 ml) in dichloromethane (1 ml) was added and the mixture stirred in ice for 3 h. The mixture was purified by elution through a solid phase extraction cartridge to give the title compound as a white solid (110 mg).

reactant | 3-(2,3-Dihydro-benzofuran-4-yl)-propylamine hydrochloride | 100 mg | Cl.O1CCC2=C1C=CC=C2CCCN
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.054 ml | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Cyclobutanecarboxylic acid [3-(2,3-dihydro-benzofuran-4-yl)-propyl]-amide | 110 mg | O1CCC2=C1C=CC=C2CCCNC(=O)C2CCC2 | C16H21NO2
